US08497371B2
2-(4-{[(3-trifluoromethylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (11)
Pipemidic acid (25 mg, 0.0824 mmol), 3-(trifluoromethyl)phenyl isothiocyanate (12.5 μL, 0.0824 mmol) and triethylamine (23 μL, 0.165 mmol) were used. Purification on silica yielded compound 11 in Table 1, below (31 mg, 75%). 1H NMR (300 MHz, CDCl3) δ 9.32 (s, 1H), 8.72 (s, 1H), 7.41-7.35 (m, 1H), 7.29-7.21 (m, 2H), 7.21-7.16 (m, 1H), 4.37 (q, J=7.10 Hz, 2H), 4.27-3.93 (m, 8H), 1.50 (t, J=7.04 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.0824 mmol, 25 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 3-(trifluoromethyl)phenyl isothiocyanate | 0.0824 mmol, 12.5 μL | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
reactant | triethylamine | 0.165 mmol, 23 μL | C(C)N(CC)CC | C6H15N
product | 2-(4-{[(3-trifluoromethylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | FC(C=1C=C(C=CC1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC)(F)F | C22H21F3N6O3S
